### PR TITLE
Lifting from { s : { j : I_B & B j } & projT1 s = i } to (B i)  

### PR DESCRIPTION
**Pull request by tlringer**
Finally, we can escape the dreaded sigma types. DEVOID is still a bit picky (mostly about dependent pattern matching), but we still get functions and proofs for an entire class of dependent types for free from proofs about non-dependent versions of those types.

This looked a bit different from other classes of lifting. The details are a bit hairy at times. I hope to clear this up much more when I finish the formalization of the generalized algorithm.

### CODE REVIEW

File: plugin/coq/TestUnpack.v [hunk 1]
```diff
@@ -0,0 +1,56 @@
+(*
+ * Lifting tests for unpack
```
Comment (tlringer) [inline plugin/coq/TestUnpack.v]: Actually implement and clean up this file (it's a placeholder)

File: plugin/coq/examples/Example.v [hunk 2]
```diff
@@ -221,9 +227,10 @@ Lemma zip_with_is_zip :
 Proof.
   intros A B n pl1. 
   apply packed_list_rect with (P := fun (pl1 : {l1 : list A & length l1 = n}) => forall pl2 : {l2 : list B & length l2 = n}, zip_with A B (A * B) pair n pl1 pl2 = zip A B n pl1 pl2). 
-  intros l  H pl2.
+  intros l H pl2.
+  unfold zip_with, zip, packed_list_rect, hs_to_coqV_p.list_to_t_rect, packed_rect. simpl.
+  apply eq_existT_uncurried.
```
Comment (tlringer) [inline plugin/coq/examples/Example.v]: eq_sigT_sig_eq didn't work here thanks to dependent pattern matching woes. We should document that. I think the right thing to do is:

- Update the README with information on this new set of equivalences
- Document the dependent pattern matching junk there

File: plugin/coq/TestUnpack.v (hunk 1 above)
Comment (tlringer) [reply plugin/coq/TestUnpack.v]: Also, include some tests for types that aren't just vectors

File: plugin/coq/examples/Example.v [hunk 3]
```diff
@@ -241,74 +248,40 @@ Defined.
...
 
 (*
- * Now we can get from that to packed_vector_rect:
+ * Now we can get from that to { s : sigT (vector T) & projT1 s = n} by lifting from
+ * lists to vectors.
  *)
+Lift Module list vector in hs_to_coq_lengths as hs_to_coq_projT1s.
 Lift Module list vector in packed_list as packed_vector.
 
-Check packed_vector.zip.
```
Comment (tlringer) [inline plugin/coq/examples/Example.v]: I guess add these back so the user can follow this like a tutorial.

File: plugin/coq/examples/Example.v [hunk 4]
```diff
@@ -241,74 +248,40 @@ Defined.
...
  *)
-Lemma zip_with_is_zip:
-  forall {A B : Type} (n : nat) (v1 : vector A n) (v2 : vector B n),
-    zip_with (@pair A B) v1 v2 = zip v1 v2.
-Proof.
-  intros A B n v1 v2.
-  pose proof (packed_vector.zip_with_is_zip A B n (unpack_vector_inv A n v1) (unpack_vector_inv B n v2)).
-  unfold zip_with, zip. f_equal. auto.
-Defined.
+Lift Module packed vector in hs_to_coqV_p as hs_to_coqV_u.
```
Comment (tlringer) [inline plugin/coq/examples/Example.v]: This is a bit slow for no real good reason. Investigate and perhaps make faster.

File: plugin/src/automation/lift/lift.ml [hunk 5]
```diff
@@ -258,6 +262,8 @@ let lift_case_args c env_c_b env_c to_c_typ npms nargs sigma =
        let c_args, b_args = take_split (nargs_lifted - npms) args in
        let sigma, arg_pair = pack_pair_rec env_c (List.tl c_args) sigma in
        sigma, List.append [List.hd c_args; arg_pair] b_args
+  | UnpackSigma ->
```
Comment (tlringer) [inline plugin/src/automation/lift/lift.ml]: For efficiency, here and elsewhere, since we define a custom eliminator, we may want to support lifting that eliminator directly rather than treating it like any other function.

File: plugin/src/automation/lift/lift.ml [hunk 6]
```diff
@@ -341,7 +347,7 @@ let repack c env lifted typ sigma =
      let args = unfold_args typ in
      let sigma, typ_red = specialize_delta_f env f args sigma in
      sigma, mkLetIn (Anonymous, lifted, typ, eta_prod_rec (mkRel 1) (shift typ_red))
-  | SwapConstruct _ ->
+  | SwapConstruct _ | UnpackSigma ->
```
Comment (tlringer) [inline plugin/src/automation/lift/lift.ml]: Think about and discuss this. Why don't we need this, if we don't need this? Do we perhaps need this in the backwards direction? Is this handled by our constructors?

File: plugin/src/automation/lift/lift.ml [hunk 7]
```diff
@@ -414,30 +420,28 @@ let lift_app_lazy_delta c env f args lift_rec sigma =
   let l = get_lifting c in
   let sigma, f' = lift_rec env sigma c f in
   let sigma, args' = map_rec_args lift_rec env sigma c args in
-  if (not (equal f f')) || l.is_fwd || Array.length args = 0 || is_opaque c f then
+  (* TODO really need to get below working more generallly; why does it infinite recurse with is_fwd for some kinds of ornaments? what is it not considering? *)
```
Comment (tlringer) [inline plugin/src/automation/lift/lift.ml]: Address this. It looks like perhaps infinite recursion was due to unpreprocessed match statements. But we should still investigate and see if we can relax this at all.

File: plugin/src/automation/lift/lift.ml [hunk 8]
```diff
@@ -536,7 +544,7 @@ let lift_core env c trm sigma =
          let sigma, args'' = map_rec_args lift_rec en sigma c args' in
          sigma, mkApp (f', args'')
        else
-         sigma, constr_app
+         sigma, constr_app (* TODO ... *)
```
Comment (tlringer) [inline plugin/src/automation/lift/lift.ml]: We may be able to use the normal constr rule here if we teach it to treat certain functions as opaque like a constructor, and get their arguments. But kind of risky

File: plugin/src/automation/lift/lift.ml [hunk 9]
```diff
@@ -484,6 +488,10 @@ let lift_smart_lift_constr c env lifted_constr args lift_rec sigma =
      let sigma, trm1 = lift_rec env sigma c pair.trm1 in
      let sigma, trm2 = lift_rec env sigma c pair.trm2 in
      (sigma, apply_pair {typ1; typ2; trm1; trm2})
+  | UnpackSigma ->
+     (* TODO explain, test to see if bad ever *)
```
Comment (tlringer) [inline plugin/src/automation/lift/lift.ml]: Check, clean, and explain

File: plugin/src/automation/lift/lift.ml [hunk 10]
```diff
@@ -553,6 +561,8 @@ let lift_core env c trm sigma =
             a_arity - (List.length tr_elim.pms) + 1
          | CurryRecord ->
             1
+         | UnpackSigma  ->
```
Comment (tlringer) [inline plugin/src/automation/lift/lift.ml]: If we do handle our special eliminator, then fix this

File: plugin/src/automation/lift/liftconfig.ml [hunk 11]
```diff
@@ -140,6 +142,7 @@ let is_from c env typ sigma =
   else
     let (a_typ, b_typ) = c.typs in
     let goal_typ = if c.l.is_fwd then a_typ else b_typ in
+    (* ^ TODO eta? *)
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: ?

File: plugin/src/automation/lift/liftconfig.ml [hunk 12]
```diff
@@ -180,6 +183,8 @@ let type_is_from c env trm sigma =
  * skipping the check
  *)
 let type_from_args c env trm sigma =
+  let sigma, typ = Inference.infer_type env sigma trm in
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: Oh dude come on this is from debugging. Remove it!

File: plugin/src/automation/lift/liftconfig.ml [hunk 13]
```diff
@@ -300,16 +313,19 @@ let initialize_elim_types c env sigma =
...
-  let mutind_body = lookup_mind i env in
-  let ind_bodies = mutind_body.mind_packets in
-  let ind_body = ind_bodies.(i_index) in
-  map_state_array
-    (f env)
-    (Array.mapi
-       (fun c_index _ -> mkConstructU (((i, i_index), c_index + 1), u))
-       ind_body.mind_consnames)
-    sigma
+  if isInd typ then
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: We can just assume it's inductive and remove this check, otherwise we're just deferring problems to later when we call this and we shouldn't.

File: plugin/src/automation/lift/liftconfig.ml [hunk 14]
```diff
@@ -318,11 +334,43 @@ let initialize_packed_constrs c env sigma =
...
-      sigma
+    match l.orn.kind with
+    | Algebraic _ | CurryRecord | SwapConstruct _ ->
+       map_constrs
+         (fun env constr sigma -> expand_eta env sigma constr)
+         env
+         a_typ
+         sigma
+    | UnpackSigma ->
+       let env_a_typ = zoom_env zoom_lambda_term env a_typ in
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: This needs massive cleaning

File: plugin/src/automation/lift/liftconfig.ml [hunk 15]
```diff
@@ -318,11 +334,43 @@ let initialize_packed_constrs c env sigma =
...
   let l = c.l in
   let sigma, a_constrs =
-    map_constrs
-      (fun env constr sigma -> expand_eta env sigma constr)
-      env
-      a_typ
-      sigma
+    match l.orn.kind with
+    | Algebraic _ | CurryRecord | SwapConstruct _ ->
+       map_constrs
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: Factor this out to expand_all_constrs or something

File: plugin/src/automation/lift/liftconfig.ml [hunk 16]
```diff
@@ -354,6 +396,17 @@ let initialize_packed_constrs c env sigma =
...
        let constr = reconstruct_lambda_n env_c_b app (nb_rel env) in
        sigma, Array.make 1 constr
+    | SwapConstruct _ ->
+       map_constrs
+         (fun env constr sigma -> expand_eta env sigma constr)
+         env
+         b_typ
+         sigma
+    | UnpackSigma ->
+       let env_b_typ = zoom_env zoom_lambda_term env b_typ in
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: We don't know if this works yet

File: plugin/src/automation/lift/liftconfig.ml (hunk 14 above)
Comment (tlringer) [reply plugin/src/automation/lift/liftconfig.ml]: Also an explanation: this isn't a constructor for an inductive type. Rather, we make a "constructor" that takes in the different parts of the packed sigma type and sticks them together. This turns out to be very, very useful for the algorithm, since we treat lifting this exactly like we'd treat lifting constructors of inductive types.

File: plugin/src/automation/lift/liftconfig.ml [hunk 17]
```diff
@@ -402,14 +455,46 @@ let lift_constr env sigma c trm =
      else
        (* inductive case - refold *)
        refold l env (lift_to l) app rec_args sigma
+  | UnpackSigma ->
+     (* Delta-recude the function, and simplify projections of existentials *)
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: This needs cleaning and more of an explanation of why we do it (mostly to make things look much nicer)

File: plugin/src/automation/lift/liftconfig.ml [hunk 18]
```diff
@@ -402,14 +455,46 @@ let lift_constr env sigma c trm =
...
+               proj_a env sigma a_inner
+           else
+             sigma, a)
+         (unfold_args app)
+         sigma
+     in sigma, (mkAppl (f, args))
   | CurryRecord ->
      (* no inductive cases, so don't try to refold *)
      reduce_nf env sigma app
+
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: yo

File: plugin/src/automation/lift/liftconfig.ml [hunk 19]
```diff
@@ -402,14 +455,46 @@ let lift_constr env sigma c trm =
...
   | CurryRecord ->
      (* no inductive cases, so don't try to refold *)
      reduce_nf env sigma app
+     
 
 (*
  * Wrapper around NORMALIZE
  *)
 let initialize_constr_rule c env constr sigma =
+  let sigma, constr_typ = Inference.infer_type env sigma constr in
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: Hi Talia, what are you doing? This is bad

File: plugin/src/automation/lift/liftconfig.ml [hunk 20]
```diff
@@ -452,14 +537,40 @@ let initialize_proj_rules env sigma c =
...
+       let index = i_b in
+       let unpacked = lift_t in
+       let indexer = pack_existT { index_type; packer; index; unpacked } in
+       let p1 = reconstruct_lambda env_proj indexer in
+       let p2 = reconstruct_lambda env_proj (apply_eq_refl {typ = i_b_typ; trm = i_b}) in
+       let projT1 = reconstruct_lambda env_proj (project_index (dest_sigT b_sig_eq_typ) t) in
+       let projT2 = reconstruct_lambda env_proj (project_value (dest_sigT b_sig_eq_typ) t) in
+       sigma, [(projT1, p1); (projT2, p2)]
+     else (* pack -> projT1, eq_refl -> projT2 *)
+       (* TODO!! *)
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: Implement this

File: plugin/src/automation/lift/liftconfig.ml [hunk 21]
```diff
@@ -452,14 +537,40 @@ let initialize_proj_rules env sigma c =
...
+       sigma, []
   | CurryRecord ->
+     let sigma, lift_typ = reduce_type env sigma (lift_to l) in
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: Now redundant

File: plugin/src/automation/lift/liftconfig.ml [hunk 22]
```diff
@@ -452,14 +537,40 @@ let initialize_proj_rules env sigma c =
...
-       let projT2 = reconstruct_lambda env_proj (project_value b_sig_typ (mkRel 1)) in
+       let sigma, b_sig_typ = Util.on_snd dest_sigT (reduce_type env_proj sigma t) in
+       let projT1 = reconstruct_lambda env_proj (project_index b_sig_typ t) in
+       let projT2 = reconstruct_lambda env_proj (project_value b_sig_typ t) in
        sigma, [(projT1, p1); (projT2, p2)]
-  | SwapConstruct _ ->
-     (* no projections *)
-     sigma, []
+  | UnpackSigma ->
+     let sigma, lift_typ = reduce_type env sigma (lift_to l) in
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: Clean this a lot and explain

File: plugin/src/automation/lift/liftconfig.ml [hunk 23]
```diff
@@ -536,12 +652,12 @@ let initialize_lift_config env l ignores sigma =
       opaques
     }
   in
+  let sigma, c = initialize_optimize_proj_packed_rules c env sigma in
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: Explain why we moved these up

File: plugin/src/automation/lift/liftrules.ml [hunk 24]
```diff
@@ -145,7 +149,7 @@ type lift_rule =
 
 (* --- Premises --- *)
 
-(* Premises for LIFT-CONSTR *)
+(* Premises for LIFT-CONSTR *) (* TODO move to config? *)
```
Comment (tlringer) [inline plugin/src/automation/lift/liftrules.ml]: Defer honestly

Comment (tlringer) [reply plugin/src/automation/lift/liftrules.ml]: Or do, I guess depends on motivation

File: plugin/src/automation/lift/liftrules.ml [hunk 25]
```diff
@@ -159,35 +163,78 @@ let is_packed_constr c env sigma trm =
          let constr = constrs.(i - 1) in
          let constr_f = first_fun (unpack (zoom_term zoom_lambda_term env constr)) in
          if equal constr_f f && List.length args = arity constr then
-           sigma, Some (i - 1, args)
+           sigma, Some (i - 1, args, trm)
```
Comment (tlringer) [inline plugin/src/automation/lift/liftrules.ml]: Remove the eta logic here, since it was a temporary attempt at something we don't need anymore

File: plugin/src/automation/lift/liftrules.ml [hunk 26]
```diff
@@ -159,35 +163,78 @@ let is_packed_constr c env sigma trm =
...
-            sigma, Some (0, List.append pms args)
-          else
-            sigma, None
+     else
+       is_packed_inductive_constr (is_packed c) last_arg trm
+  | SwapConstruct _ ->
+     is_packed_inductive_constr (fun _ -> true) id trm
+  | CurryRecord ->
+      if isConstruct trm || (isApp trm && l.is_fwd) then
+        is_packed_inductive_constr (fun _ -> true) id trm
```
Comment (tlringer) [inline plugin/src/automation/lift/liftrules.ml]: Some redundancy here now

File: plugin/src/automation/lift/liftrules.ml [hunk 27]
```diff
@@ -159,35 +163,78 @@ let is_packed_constr c env sigma trm =
...
+          let args = pair_projections_eta_rec_n trm (arity constr - List.length pms) in
+          sigma, Some (0, List.append pms args, trm)
+        else
+          sigma, None
+      else
+        sigma, None
+  | UnpackSigma ->
+     (*
+      * TODO
+      * No clue what I'm doing yet! Do not merge this!
```
Comment (tlringer) [inline plugin/src/automation/lift/liftrules.ml]: OK now that we know what we're doing, clean up this comment and make it actually explain

File: plugin/src/automation/lift/liftrules.ml [hunk 28]
```diff
@@ -159,35 +163,78 @@ let is_packed_constr c env sigma trm =
...
+      *
+      * TODO!!! use constrs instead of rolling by hand; change
+      * args when you do that.
+      * Then we can probably combine w/ the eta rule! But for now whatever
+      *
+      * TODO!!! clean/consolidate etc. this is a proof of concept
+      *)
+     if (get_lifting c).is_fwd then
```
Comment (tlringer) [inline plugin/src/automation/lift/liftrules.ml]: Clean this code too

File: plugin/src/automation/lift/liftrules.ml [hunk 29]
```diff
@@ -159,35 +163,78 @@ let is_packed_constr c env sigma trm =
...
+               projections (dest_sigT (dest_sigT b_sig_eq).index_type) s
+           in
+           let args = [i_b; b; h_eq] in
+           sigma, Some (0, List.append typ_args args, trm)
+         else
+           sigma, None
        else
          sigma, None
+     else
+       sigma, None (* TODO unimplemented *)
```
Comment (tlringer) [inline plugin/src/automation/lift/liftrules.ml]: Implement

File: plugin/src/automation/lift/liftrules.ml (hunk 28 above)
Comment (tlringer) [reply plugin/src/automation/lift/liftrules.ml]: Including removing TODOs and extra comments like the existT term below

File: plugin/src/automation/lift/liftrules.ml [hunk 30]
```diff
@@ -207,11 +254,7 @@ let is_pack c env sigma trm =
          Util.on_snd Option.has_some (right_type trm)
        else
          sigma, false
-    | SwapConstruct _ ->
-       (* no packing *)
-       sigma, false
-    | CurryRecord ->
-       (* taken care of by constructor rule *)
+    | _ ->
```
Comment (tlringer) [inline plugin/src/automation/lift/liftrules.ml]: Right so this is weird. Why do we take care of packing in constructor rules for everything else but for algebraic ornaments we take care of it here? Think about this, either now or when we work on the formalization.

File: plugin/src/automation/lift/liftrules.ml [hunk 31]
```diff
@@ -267,38 +310,41 @@ let is_proj c env trm =
...
-         let sigma, trm_eta = expand_eta env sigma trm in
-         let env_elim, trm_b = zoom_lambda_term env trm_eta in
-         let sigma, trm_elim = deconstruct_eliminator env_elim sigma trm_b in
-         if (not l.is_fwd) && l.orn.kind = CurryRecord then
-           let (final_args, post_args) = take_split 1 trm_elim.final_args in
-           let sigma, is_from = type_is_from c env_elim (List.hd final_args) sigma in
-           if Option.has_some is_from then
-             sigma, Some (env_elim, trm_eta, trm_elim, Option.get is_from)
+  if l.orn.kind = UnpackSigma then
+    sigma, None
```
Comment (tlringer) [inline plugin/src/automation/lift/liftrules.ml]: If we handle our special eliminator we'll need to change this

File: plugin/src/automation/search/equivalence.ml [hunk 32]
```diff
@@ -507,7 +511,24 @@ let equiv_proof_unpack env l sigma =
     let sigma, args = unpack_typ_args env_b_sig_eq b_sig_eq sigma in
     let env_args = pop_rel_context 1 env_b_sig_eq in
     sigma, (env_args, unshift_all args)
-  in reconstruct_lambda env_args (mkAppl (f, args))
+  in
+  let sigma, app = reduce_term env sigma (mkAppl (f, args)) in
+  let trm = reconstruct_lambda env_args app in
+  let sigma, typ =
+    (* The default inferred type is not very good, so we guide Coq *)
```
Comment (tlringer) [inline plugin/src/automation/search/equivalence.ml]: Clean this a bit or at least explain it

File: plugin/src/automation/search/equivalence.mli [hunk 33]
```diff
@@ -9,10 +9,10 @@ open Stateutils
 
 (*
  * Prove section and retraction
- * Return the section term and the retraction term
- * (Don't return the types, since Coq can infer them without issue)
+ * Return the section term and the retraction term, as well as their types
  *)
-val prove_equivalence : env -> evar_map -> lifting -> (types * types)
+val prove_equivalence :
+  env -> evar_map -> lifting -> ((constr * types) * (constr * types))
```
Comment (tlringer) [inline plugin/src/automation/search/equivalence.mli]: Kind of inconsistent to do this for equivalence but not for adjoint_retraction or adjunction. So maybe just include the types for those too

File: plugin/src/frontend.ml [hunk 34]
```diff
@@ -31,6 +31,7 @@ open Smartelim
 open Zooming
 open Apputils
 open Sigmautils
+open Reducers
```
Comment (tlringer) [inline plugin/src/frontend.ml]: Remove unused imports

File: plugin/src/ornaments/lifting.ml [hunk 35]
```diff
@@ -76,10 +76,14 @@ let promotion_term_to_types env sigma trm =
  * True if forwards, false if backwards
  *)
 let direction_cached env from_typ promote k sigma : bool state =
-  let promote = unwrap_definition env promote in
-  let promote_env = zoom_env zoom_lambda_term env promote in
-  let sigma, promote_typ = infer_type promote_env sigma (mkRel 1) in
-  sigma, is_or_applies from_typ promote_typ
+  match k with
+  | UnpackSigma ->
+     sigma, true (* TODO!!! *)
```
Comment (tlringer) [inline plugin/src/ornaments/lifting.ml]: Very important: detect the direction here, otherwise backward direction will never trigger

File: plugin/coq/TestUnpack.v [hunk 36]
```diff
@@ -0,0 +1,56 @@
...
+ *)
+
+(* TODO do whole list library here TBH, why not *)
+(* TODO add deps and so on *)
+(* TODO add to test.sh *)
+(* TODO add more here *)
+(* TODO clean *)
+(* TODO bwd direction *)
```
Comment (tlringer) [inline plugin/coq/TestUnpack.v]: Remove all TODOs anywhere in any file

File: plugin/src/automation/lift/liftrules.ml (hunk 30 above)
Comment (tlringer) [reply plugin/src/automation/lift/liftrules.ml]: Also looks like this rule will currently trigger for fwd for UnpackSigma; see if it does, and if so what it does

Comment (tlringer) [reply plugin/src/automation/lift/liftrules.ml]: I think we basically always want this to be in the constr rule instead. But maybe that is not feasible for rel indices? Maybe this exists just to deal with rel indices? If so we can handle it elsewhere?

File: plugin/coq/examples/Example.v [hunk 37]
```diff
@@ -241,74 +248,72 @@ Defined.
...
-  intros A B C f n v1 v2. apply unpack_vector. apply (packed_vector.zip_with A B).
-  - apply f.
-  - apply (unpack_vector_inv A n v1).
-  - apply (unpack_vector_inv B n v2).
-Defined.
+Configure Lift packed vector { opaque Eqdep_dec.UIP_dec Nat.eq_dec }.
+
+(* TODO move these tests later *)
+
+Definition my_id (T : Type) (n : nat) (v : vector T n) := v.
```
Comment (tlringer) [inline plugin/coq/examples/Example.v]: Move these to TestUnpack.v once the backwards direction code is finished

File: plugin/src/automation/lift/lift.ml [hunk 38]
```diff
@@ -484,6 +507,43 @@ let lift_smart_lift_constr c env lifted_constr args lift_rec sigma =
      let sigma, trm1 = lift_rec env sigma c pair.trm1 in
      let sigma, trm2 = lift_rec env sigma c pair.trm2 in
      (sigma, apply_pair {typ1; typ2; trm1; trm2})
+  | UnpackSigma ->
+     let ex_eq = dest_existT constr_app in
+     let ex = dest_existT ex_eq.index in
+     let sigma, packer = lift_rec env sigma c ex.packer in
+     let sigma, index = lift_rec env sigma c ex.index in
+     let sigma, (unpacked, h_eq) =
+       if is_or_applies eq_refl ex_eq.unpacked then
```
Comment (tlringer) [inline plugin/src/automation/lift/lift.ml]: Clean and move this

File: plugin/src/automation/lift/lift.ml [hunk 39]
```diff
@@ -528,19 +589,19 @@ let lift_core env c trm sigma =
...
        if List.length args > 0 then
-         let (f', args') = destApp constr_app in
-         let sigma, args'' = map_rec_args lift_rec en sigma c args' in
-         sigma, mkApp (f', args'')
+         lift_rec en sigma c constr_app
        else
          sigma, constr_app
     | LiftPack ->
-       if l.is_fwd then
+       if isRel tr then (* TODO now these rules are different *)
```
Comment (tlringer) [inline plugin/src/automation/lift/lift.ml]: Address this

File: plugin/src/automation/lift/lift.ml [hunk 40]
```diff
@@ -528,19 +589,19 @@ let lift_core env c trm sigma =
          else
            (sigma, mkApp (a_typ, lifted_args))
     | Optimization (SmartLiftConstr (lifted_constr, args)) ->
-       lift_smart_lift_constr c en lifted_constr args lift_rec sigma
+       let sigma, lifted = lift_smart_lift_constr c en lifted_constr args lift_rec sigma in
```
Comment (tlringer) [inline plugin/src/automation/lift/lift.ml]: leftover

File: plugin/src/automation/lift/lift.ml [hunk 41]
```diff
@@ -513,7 +573,8 @@ let lift_core env c trm sigma =
        lift_rec en sigma c (last_arg tr)
     | Coherence (to_proj, p, args) ->
        let sigma, projected = reduce_term en sigma (mkAppl (p, snoc to_proj args)) in
-       lift_rec en sigma c projected
+       let sigma, lifted = lift_rec en sigma c projected in
```
Comment (tlringer) [inline plugin/src/automation/lift/lift.ml]: leftover

File: plugin/src/automation/lift/liftconfig.ml [hunk 42]
```diff
@@ -354,6 +391,35 @@ let initialize_packed_constrs c env sigma =
        let sigma, app = reduce_nf env sigma app in
        let constr = reconstruct_lambda_n env_c_b app (nb_rel env) in
        sigma, Array.make 1 constr
+    | SwapConstruct _ ->
+       eta_constrs env b_typ sigma
+    | UnpackSigma -> (* TODO consolidate / clean if needed *)
+       (* We create a proxy "constructor" here, though it is just a function *)
```
Comment (tlringer) [inline plugin/src/automation/lift/liftconfig.ml]: Explain and clean

File: plugin/src/automation/lift/liftrules.ml [hunk 43]
```diff
@@ -167,33 +171,90 @@ let is_packed_constr c env sigma trm =
...
+               let index_ex = dest_existT s in
+               index_ex.index, index_ex.unpacked
+             else
+               projections (dest_sigT b_sig_eq.index_type) s
+           in sigma, Some (0, List.append typ_args [i_b; b; h_eq])
+         else
+           sigma, None
+       else
+         sigma, None
+     else (* <-- TODO correct or not? needed? also, this is slow *)
```
Comment (tlringer) [inline plugin/src/automation/lift/liftrules.ml]: Address, and think carefully about when we actually want to run this rule

File: plugin/src/automation/lift/liftrules.ml [hunk 44]
```diff
@@ -167,33 +171,90 @@ let is_packed_constr c env sigma trm =
...
+             sigma, None
        else
          sigma, None
 
 (* Premises for LIFT-PACK *)
 let is_pack c env sigma trm =
   let l = get_lifting c in
   let right_type trm = type_is_from c env trm sigma in
-  if l.is_fwd then
+  if l.is_fwd || l.orn.kind = UnpackSigma then
```
Comment (tlringer) [inline plugin/src/automation/lift/liftrules.ml]: Rename to "is_identity," and explain more and clean a bit. Consolidate constr rule stuff here, and maybe_repack as well

File: plugin/coq/examples/Example.v (hunk 2 above)
Comment (tlringer) [reply plugin/coq/examples/Example.v:231]: README needs new info on a lot of things including when we need opaque, etc.
